US08486970B2
To a solution of 128 mg of (3RS,4RS)—N-(cyanomethoxy)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide in 1.92 ml of methanol was added 0.018 ml of a hydroxylamine solution at room temperature, followed by warming to 40° C. and stirring overnight. The reaction solution was cooled to room temperature and the precipitated crystal was then collected by filtration to obtain 26 mg of (3RS,4RS)—N-[2-amino-2-(hydroxyimino)ethoxy]-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a white crystal.

reactant | (3RS,4RS)—N-(cyanomethoxy)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 128 mg | C(#N)CONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl | C25H26Cl2N4O5S
reactant | hydroxylamine | 0.018 ml | NO | H3NO
solvent | methanol | 1.92 ml | CO | CH4O
product | (3RS,4RS)—N-[2-amino-2-(hydroxyimino)ethoxy]-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(mesyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 26 mg | NC(CONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl)=NO | C25H29Cl2N5O6S
